US06951881B2
Preparation of 3-Acetyl-5-nitroindole
A solution of 5-nitroindole (10 g, 61.6 mmol) and acetyl chloride (5.8 g, 74 mmol) in methylene chloride at 0° C. is treated with tin tetrachloride (1M in CH2Cl2, 68 mL), stirred under N2 for 6 h, treated with saturated NaHCO3 to pH 9 and filtered. The filtrate is concentrated in vacuo to give a residue. The residue is dissolved in DMF and filtered. This filtrate is concentrated in vacuo to give the title product, 12.6 g (99% yield), identified by NMR and mass spectral analyses.

reactant | 5-nitroindole | 61.6 mmol, 10 g | [N+](=O)([O-])C=1C=C2C=CNC2=CC1 | C8H6N2O2
reactant | acetyl chloride | 74 mmol, 5.8 g | C(C)(=O)Cl | C2H3ClO
reactant | tin tetrachloride | 1M, 68 mL | [Sn](Cl)(Cl)(Cl)Cl
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-Acetyl-5-nitroindole | 99% yield | C(C)(=O)C1=CNC2=CC=C(C=C12)[N+](=O)[O-] | C10H8N2O3
